US03953500
To 200 ml. of chlorobenzene are added 17.6 g. of 1-oxoindan-4-carboxylic acid and 23 g. of phosphorus pentachloride. The mixture is stirred at room temperature for 3 hours, after which time 40 g. of aluminum chloride is added. The mixture is stirred at about 65°C for 3 hours. After cooling, the mixture is poured into ice and hydrochloric acid, followed by extraction with chloroform. The extract is washed with water, a saturated aqueous solution of sodium bicarbonate and water in the order mentioned. After drying, the solvent is distilled off under reduced pressure and the residue is purified by column chromatography on silica gel (200 g. silica gel; eluted with chloroform). Finally, recrystallization from a 20:5 mixture of benzene and hexane gives 4-(p-chlorobenzoyl)indan-1-one as crystals melting at 144.5°-146°C.

reactant | 1-oxoindan-4-carboxylic acid | O=C1CCC=2C(=CC=CC12)C(=O)O | C10H8O3
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(p-chlorobenzoyl)indan-1-one | ClC1=CC=C(C(=O)C2=C3CCC(C3=CC=C2)=O)C=C1 | C16H11ClO2
